* source DESIGN1
X_U1A         N00732 N00305 N00590 N00635 N00114 LM324
X_U1B         N00114 N00240 N00590 N00635 N00258 LM324
R_R2         N00240 N00258  22000 TC=0,0 
R_R1         0 N00240  1000 TC=0,0 
R_Rf         N00258 N00305  9k TC=0,0 
R_Ri         N00305 0  1k TC=0,0 
V_V1         N00590 0 10Vdc
V_V2         0 N00635 10Vdc
V_V3         N00732 0  AC 0.5
+SIN 0 0.5 1000 0 0 0
R_Rl         N00258 0  1k TC=0,0 
R_Rf1         N03086 N03100  9k TC=0,0 
X_U1C         N02934 N03100 N02824 N03152 N03050 LM324
R_R3         N03164 N03086  852 TC=0,0 
R_Rl1         N03086 0  1k TC=0,0 
V_V5         N02934 0  AC 0.5
+SIN 0 0.5 1000 0 0 0
R_Ri1         N03100 0  1k TC=0,0 
R_R4         0 N03164  45 TC=0,0 
V_V4         N02824 0 10Vdc
V_V6         0 N03152 10Vdc
X_U2         N03050 N03164 N02824 N03152 N03086 LM6181/NS
V_V7         N04508 0 10Vdc
V_V9         0 N04836 10Vdc
R_Rf2         N04770 N04784  9k TC=0,0 
X_U3C         N04618 N04784 N04508 N04836 N05272 LM324
R_R6         0 N04848  45 TC=0,0 
R_Ri2         N04784 0  1k TC=0,0 
V_V8         N04618 0  AC 0.5
+SIN 0 0.5 1000 0 0 0
X_U4         N05276 N04848 N04508 N04836 N04770 LM6181/NS
R_R5         N04848 N04770  852 TC=0,0 
R_Rl2         N04770 0  1k TC=0,0 
C_C1         N05272 N05276  31p  TC=0,0 
R_Rx         N05272 N05276  1k TC=0,0 
R_Ry         0 N05276  1k TC=0,0 
X_U5         N06486 0 N06486 TL431/TI
X_U6A         N06486 N06512 N06605 0 N06556 LM324
Q_Q1         N06605 N06556 N06560 TIP41
R_R7         N06486 N06605  1k TC=0,0 
R_R8         N06512 0  1k TC=0,0 
R_R9         N06560 N06512  1k TC=0,0 
V_V10         N06605 0 12Vdc
R_R10         0 N06560  20 TC=0,0 
R_R11         N06870 N06560  20 TC=0,0 
V_V11         N06870 0  
+SIN 2.5 5 5000 0 0 0
